US03962443
Ethyl 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (compound 42)
A mixture containing 1.0 g of ethyl 2-chloro-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate, 0.60 g of sodium bicarbonate, 20 ml of dimethyl sulfoxide, and 0.60 g of 1-acetylpiperazine was heated at 120°C for 1.5 hours with stirring. The dimethylsulfoxide was distilled off in vacuo and the residue was taken up in chloroform. The chloroform solution was washed with water, dried over anhydrous magnesium sulfate, and concentrated to dryness. The residual solid was recrystallized from a mixture of n-hexane and acetone to yield 1.21 of the product, m.p. 208°- 210°C with decomposition.

reactant | ethyl 2-chloro-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 1.0 g | ClC=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C12H12ClN3O3
reactant | sodium bicarbonate | 0.60 g | C([O-])(O)=O.[Na+]
reactant | 1-acetylpiperazine | 0.60 g | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | Ethyl 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C18H23N5O4
